US08791102B2
Step (c) 1M borane in THF (10 mL, 10 mmol) followed by boron trifluoride diethyl etherate (1.25 mL, 10 mmol) were added to a solution of (2S,4R)-1-tert-butyl 2-ethyl 4-(4-fluorobenzyl)-5-oxopyrrolidine-1,2-dicarboxylate (1.8 g, 5 mmol) in methylene chloride (20 mL) at 0° C. The reaction was allowed to warm to ambient temperature while stirring for 1 hour. The mixture was cooled to 0° C. and then saturated ammonium chloride (25 mL) was slowly added. Water was added to dissolve precipitated solids and then the mixture was extracted with methylene chloride. The extract was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated. The residue was dissolved in methanol (15 mL) and then water (5 mL) followed by lithium hydroxide (1.05 g, 25 mmol) were added to the solution. The mixture was stirred at ambient temperature for 1 hour, concentrated under reduced pressure and diluted with water (20 mL). The aqueous solution was partitioned with methyl tert-butyl ether and the aqueous phase was separated, filtered, cooled to 0° C., acidified (pH≦3) with 6N hydrochloric acid and extracted twice with methylene chloride. The combined extract was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to give (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-fluorobenzyl)pyrrolidine-2-carboxylic acid (1.31 g, 81%) as a white solid. 1H NMR (400 MHz, CD3OD) δ 7.22-7.18 (m, 2H), 7.03-6.99 (m, 2H), 4.29-4.22 (m, 2H), 3.57-3.50 (m, 1H), 3.07 (dd, J=8.0, 10.4, 1H), 2.68-2.65 (m, 2H), 2.58-2.50 (m, 1H), 2.04-1.97 (m, 2H), 1.44, 1.41 (2 s, 9H); MS (EI) for C17H22FNO4. found 322.1 (M-H)−.

reactant | borane | 1M | B | BH3
reactant | THF | 10 mmol, 10 mL | C1CCOC1 | C4H8O
reactant | boron trifluoride diethyl etherate | 10 mmol, 1.25 mL | B(F)(F)F.CCOCC
reactant | (2S,4R)-1-tert-butyl 2-ethyl 4-(4-fluorobenzyl)-5-oxopyrrolidine-1,2-dicarboxylate | 5 mmol, 1.8 g | FC1=CC=C(C[C@@H]2C[C@H](N(C2=O)C(=O)OC(C)(C)C)C(=O)OCC)C=C1 | C19H24FNO5
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
reactant | lithium hydroxide | 25 mmol, 1.05 g | [OH-].[Li+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-fluorobenzyl)pyrrolidine-2-carboxylic acid | 1.31 g, 81% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)CC1=CC=C(C=C1)F)C(=O)O | C17H22FNO4
